US07427612B2
(2-Cyclobutylamino-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
A solution of (2-Iodo-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone (compound CK, 0.05 g, 0.09 mmol) and of cyclobutylamine (0.1 ml) in dimethylacetamide was heated in a microwave oven (180 deg) for 10 min before being concentrated in vacuo. The residue was disolve in ethyl acetate, washed with water dried over sodiumsulfate, filtered and concentrated. The residue was purified by column chromatography (SiO2, 5 g, Heptane/EtOAc 0-50%) to give the title compound as a white foam (24 mg, 54%). MS (m/e): 482.5 (M+H+, 100%).

reactant | (2-Iodo-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 0.09 mmol, 0.05 g | IC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3IN2O3S
reactant | cyclobutylamine | 0.1 ml | C1(CCC1)N | C4H9N
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | (2-Cyclobutylamino-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 24 mg, 54% | C1(CCC1)NC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C23H26F3N3O3S
